US05439928
b) 1-benzyl-5-(4,4-diphenyl-1-butenyl)-1H-imidazole
1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole hydrochloride (5,0 g) and 30,0 g of anhydrous potassium hydrogen sulphate are heated at 150° C. for 4 hours. The mixture is cooled, 90 ml of ethanol is added to dissolve the product. The mixture is then filtered and the filtrate is evaporated to minor volume. Water is added and the mixture is made alkaline with sodium hydroxide. The product is extracted in methylene chloride, washed with water and evaporated to dryness. The product is then made to hydrochloride salt with dry hydrochloric acid in dry ethylacetate. Yield is 2,9 g. M.p. 204°-206° C.

reactant | 1-benzyl-5-(1-hydroxy-4,4-diphenylbutyl)-1H-imidazole hydrochloride | 5,0 g | Cl.C(C1=CC=CC=C1)N1C=NC=C1C(CCC(C1=CC=CC=C1)C1=CC=CC=C1)O
reactant | potassium hydrogen sulphate | 30,0 g | S(=O)(=O)(O)[O-].[K+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 1-benzyl-5-(4,4-diphenyl-1-butenyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=CCC(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2
